US07816558B2
Ethyl 3-(3-cyano-4-methoxyphenyl)-5-isoxazolecarboxylate and tribromoborane were dissolved in a solution of dichloromethane, followed by stirring for 2 hours under ice-cooling. Further, the mixture was stirred at 40° C. for 30 minutes to obtain ethyl 3-(3-cyano-4-hydroxyphenyl)-5-isoxazolecarboxylate. APN: 257.

reactant | Ethyl 3-(3-cyano-4-methoxyphenyl)-5-isoxazolecarboxylate | C(#N)C=1C=C(C=CC1OC)C1=NOC(=C1)C(=O)OCC | C14H12N2O4
reactant | tribromoborane | BrB(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 3-(3-cyano-4-hydroxyphenyl)-5-isoxazolecarboxylate | C(#N)C=1C=C(C=CC1O)C1=NOC(=C1)C(=O)OCC | C13H10N2O4
